US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3-cyano phenylboronic acid to give 3-[6-methoxy-3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-benzonitrile. LC-MS m/e 342(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 3-cyano phenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 3-[6-methoxy-3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-benzonitrile | COC=1C=C2C=C(N=C(C2=CC1)C=1C=C(C#N)C=CC1)NC1=NNC=C1 | C20H15N5O
